US04351767
Preparation of 3α,6α-bis(dimethyl-t-butylsilyloxy)-5β-cholest-24-ene
1.4 g of 3α,6α-bis(dimethyl-t-butylsilyloxy)-5β-cholen-24-al (prepared as described in my U.S. patent application Ser. No. 236,160) was dissolved in 5 ml of tetrahydrofuran and added dropwise to the ylid solution (as described in Example I). The reaction mixture was stirred, refluxed and processed in the manner of Example I. The product remaining after the evaporation of the petroleum ether extract was identified by IR and NMR data as the 3α,6α-bis (dimethyl-t-butylsilyloxy)-5β-cholest-24-ene.

reactant | 3α,6α-bis(dimethyl-t-butylsilyloxy)-5β-cholen-24-al | 1.4 g | C[Si](O[C@H]1C[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]([C@@H](C=CC=O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O[Si](C(C)(C)C)(C)C)(C(C)(C)C)C | C36H66O3Si2
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3α,6α-bis(dimethyl-t-butylsilyloxy)-5β-cholest-24-ene | C[Si](O[C@H]1C[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]([C@@H](CCC=C(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O[Si](C(C)(C)C)(C)C)(C(C)(C)C)C | C39H74O2Si2
